US09193746B2
A mixture of octadecanoic acid (170 mg, 0.6 mmol) and thionyl chloride (4 mL) was heated at 60° C. for 1 hour. The mixture was then cooled to room temperature, whereupon it was concentrated in vacuo. Residue from this mixture was then dissolved in CH2Cl2 (10 mL), whereupon pyridine (5 equivalents) and 4-(aminobutyl)-1,10-phenanthroline (1 equivalent) (Wang et al., Adv. Funct. Mater., 12, 415-419 (2002)) were added. The resulting mixture was stirred at room temperature overnight and then poured into H2O. The resulting precipitate was collected by suction filtration and dried to a constant weight to give 4-(4-(octadecanoylamino)butyl)-1,10-phenanthroline.

reactant | octadecanoic acid | 0.6 mmol, 170 mg | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 5 equivalents | N1=CC=CC=C1 | C5H5N
reactant | 4-(aminobutyl)-1,10-phenanthroline | 1 equivalent | NCCCCC1=CC=NC2=C3N=CC=CC3=CC=C12 | C16H17N3
solvent | H2O | O | H2O
product | 4-(4-(octadecanoylamino)butyl)-1,10-phenanthroline | C(CCCCCCCCCCCCCCCCC)(=O)NCCCCC1=CC=NC2=C3N=CC=CC3=CC=C12 | C34H51N3O
